US06004948
3- (2,4-Dichlorophenoxy) -4-methylsulphonylaminobenzene-sulphonic acid N,N-diethyl-amide
3-(2,4-Dichlorophenoxy)-4-methylsulphonylaminobenzene-sulphonic acid chloride (1.08 g, 2.50 mmol) was dissolved in dichloromethane (5 ml) and at 0° C. added dropwise to a solution of diethylamine (0.30 ml, 2.51 mmol) in pyridine (20 ml). The mixture was stirred for 1 hour at 0° C., acidified with 1N HCl and extracted with ethyl acetate. The combined organic phases were dried over MgSO4 and the solvent was evaporated off. The residue was purified by chromatography (silica gel, CH2Cl2). Yield: 0.22 g=19% 13C (100 MHz, DMSO-d6) δ 149.98, 147.50, 136.21, 132.37, 130.43, 129.63, 129.21, 126.15, 123.56, 122.86, 122.72, 114.90, 41.77, 41.02, 14.02

reactant | 3-(2,4-Dichlorophenoxy)-4-methylsulphonylaminobenzene-sulphonic acid chloride | 2.50 mmol, 1.08 g | ClC1=C(OC=2C=C(C=CC2NS(=O)(=O)C)S(=O)(=O)Cl)C=CC(=C1)Cl | C13H10Cl3NO5S2
reactant | diethylamine | 2.51 mmol, 0.30 ml | C(C)NCC | C4H11N
reactant | HCl | 1N | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3- (2,4-Dichlorophenoxy) -4-methylsulphonylaminobenzene-sulphonic acid N,N-diethyl-amide | C(C)N(S(=O)(=O)C1=CC(=C(C=C1)NS(=O)(=O)C)OC1=C(C=C(C=C1)Cl)Cl)CC | C17H20Cl2N2O5S2
